US04039676
The mixture of 6.68 g of 2-(2-tosyloxyethyl)-1,4-benzodioxan, 3.54 g of 4-hydroxy-4-phenylpiperidine, 10 g of anhydrous sodium carbonate and 100 ml of 4-methyl-2-pentanone is refluxed 48 hours. It is filtered, evaporated and the residue recrystallized from isopropanol, to yield the 2-[2-(4-hydroxy-4-phenylpiperidino)-ethyl]-1,4-benzodioxan melting at 142°.

reactant | 2-(2-tosyloxyethyl)-1,4-benzodioxan | 6.68 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCC1COC2=C(O1)C=CC=C2 | C17H18O5S
reactant | 4-hydroxy-4-phenylpiperidine | 3.54 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | sodium carbonate | 10 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 4-methyl-2-pentanone | 100 ml | CC(CC(C)=O)C | C6H12O
product | 2-[2-(4-hydroxy-4-phenylpiperidino)-ethyl]-1,4-benzodioxan | OC1(CCN(CC1)CCC1COC2=C(O1)C=CC=C2)C2=CC=CC=C2 | C21H25NO3
